US05102909
Preparation of 2-(5-methylthiomethyl-2-furyl)-2-hydroxy-3-keto-4-dihydroxyethyl-butyrolactone (MTMFBL)
L-Ascorbic acid (8.8 g, 0.05 mole) was dissolved in 62 mL water that had been purged with nitrogen for 1 hour. Freshly distilled 2-methylthiomethyl-2,5-dimethoxy-2,5-dihydrofuran (9.5 g, 0.05 mole) was added dropwise with stirring over a period of 1 hour. The reaction mixture was not completely homogeneous. Twenty four hours after the addition of the dihydrofuran, the insoluble droplets were removed by treatment with methylene chloride. The aqueous fraction was frozen and freeze-dried to give 14.2 g (98%) crude product. The amorphous solid was dissolved in 100 mL ethyl acetate and was shaken with 3 g decolorizing charcoal and 3 g celite. After filtration, the solvent was removed under vacuum to give 12.7 g (88%) amorphous product, sinters 40°-42° C.

reactant | L-Ascorbic acid | 0.05 mole, 8.8 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | 2-methylthiomethyl-2,5-dimethoxy-2,5-dihydrofuran | 0.05 mole, 9.5 g | CSCC1(OC(C=C1)OC)OC | C8H14O3S
reactant | dihydrofuran | O1CCC=C1 | C4H6O
reactant | charcoal | C | CH4
solvent | water | 62 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(5-methylthiomethyl-2-furyl)-2-hydroxy-3-keto-4-dihydroxyethyl-butyrolactone | 12.7 g, 88% | CSCC1=CC=C(O1)C1(C(=O)OC(C1=O)CC(O)O)O | C12H14O7S
